US07176310B1
Synthesis of 4-Methyl-2-(2-oxo-2-phenylethanesulfonyl)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide
A solution of sodium 5-(4-fluorophenylcarbamoyl)pyrimidine-2-sulfinate (76 mg, 0.24 mmol) in 2 mL of DMF was treated with 2-bromoacetophenone (48 mg, 0.24 mmol) and stirred at ambient temperature for 3 days. The solution was then diluted with 15 mL ethyl acetate and 5 mL hexane and sequentially washed with 2×5 mL portions of 0.1 M HCl and 5 mL of water. The organic phase was dried using Na2SO4, concentrated and the resultant oil chromatographed through SiO2 (2–5% MeOH/dichloromethane). Recrystallization in ethyl acetate/hexane yielded 26 mg (27%) of the titled compound as yellowish needles. ApcI-MS m/z 414 (MH+), 412 (M−H−).

reactant | sodium 5-(4-fluorophenylcarbamoyl)pyrimidine-2-sulfinate | 0.24 mmol, 76 mg | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)S(=O)[O-].[Na+]
reactant | 2-bromoacetophenone | 0.24 mmol, 48 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | 5 mL | CCCCCC | C6H14
product | 4-Methyl-2-(2-oxo-2-phenylethanesulfonyl)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 26 mg, 27% | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)S(=O)(=O)CC(C1=CC=CC=C1)=O)C | C20H16FN3O4S
